US06987114B1
1-(Anthracen-9-ylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 9-chloromethyl anthracene were reacted by the same way with the example 1 to obtain the titled compound (216 mg, yield: 46.7%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 9-chloromethyl anthracene | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
product | 1-(Anthracen-9-ylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione | 216 mg, yield: 46.7% | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C30H26N2O3
